Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain, nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with a history of substance 
abuse including cocaine and alcohol but no other significant 
past medical history who presents with left-sided chest pain.  
He reports that the pain started about 3 weeks ago. He states 
that the pain was constant for 2 weeks and intermittent for the 
past week.  He has never had anything like this in the past.  
The pain is described as sharp, left sided, radiating to his 
left upper arm and scapula, not provoked by exertion. Breathing 
deeply makes the pain worse and not moving makes the pain 
better. It is occasionally accompanied by shortness of breath. 
He also has had severe nausea over this interval and has been 
unable to take substantial PO but has had no vomiting or 
abdominal pain.  He describes occasional fevers and chills 
during this time as well as a chronic cough from smoking. 
. 
He admits to using cocaine about ___ weeks ago and thinks this 
pain may be associated with his cocaine use.  He reports last 
smoking cocaine 30 days ago, when he acquired a large amount.  
He also drinks alcohol ___ vodkas a day - he cannot quantify 
how much per drink) and feels the pain is more prominent when he 
has not had a drink.  He reports having a hx of withdrawal 
symptoms including "the shakes" as well as, per his report, a 
grand mal seizure. He reports his most recent drink was two 
nights ago.
.
Because of the chest pain, he has been hospitalized twice in the 
past three weeks, first at ___ and later at ___ 
___ in ___. He states that he was admitted for 
three days and underwent ETT and echo. He says the only thing 
that helped his pain was a medication that starts with a "d." He 
then left AMA, reportedly due to anxiety.
.
In the ED initial VS were T 99.1, HR 86, BP 124/67, RR 20, O2 
100% on RA. CXR and EKG were WNL. He was given .3 mg SL 
nitroglycerin, 325 mg ASA, morphine 4 mg x 3. He declined 
Toradol. He persisted with chest pain, requesting IV dilaudid. 
The ED team felt this was very unlikely to be cardiac in origin 
and so admitted him for further evaluation and management.
 
Past Medical History:
Alcohol abuse
Cocaine abuse
 
Social History:
___
Family History:
No family history of cardiac disease.
 
Physical Exam:
VS: 97.6, 117/75, 88, 100 RA
Gen: NAD
HEENT: MMM
Neck: supple, no JVD
CV: pain reproducible on palpation of anterior chest wall, RRR 
S1 S2 no R/G/M
Pulm: CTA-B, -w/r/r, good air movement
Abd: soft, nontender, nondistended, normoactive bowel sounds
Ext: no edema, pulses 2+ bilaterally
Neuro: CNII-XII intact, moving all extremities, no tremor or 
asterixis

Exam unchanged upon discharge
 
Pertinent Results:
___ 12:50AM BLOOD WBC-9.0 RBC-4.13* Hgb-12.8* Hct-38.0* 
MCV-92 MCH-31.1 MCHC-33.8 RDW-13.6 Plt ___
___ 12:50AM BLOOD Neuts-58.5 ___ Monos-3.1 Eos-2.6 
Baso-1.0
___ 12:50AM BLOOD Glucose-90 UreaN-19 Creat-1.0 Na-144 
K-4.0 Cl-106 HCO3-26 AnGap-16
___ 12:50AM BLOOD cTropnT-<0.01

___ EKG: NSR at 60. Normal axis and intervals. J point 
elevations, otherwise no ST-t-wave changes. 

___ CXR:  No acute intrathoracic process.

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with a hx of cocaine abuse, 
alcohol abuse and tobacco use who preseted with left sided chest 
pain most consistent with a musculoskeletal origin 
(costochondritis) however pericarditis, cocaine chest pain, ACS 
and PE remain on the differential.
.
1) Chest Pain: His pain was reproducible with palpation and was 
relieved by rest which was most consistent with a 
musculoskeletal origin. He was most tender at the left border of 
the sternum making costochondritis the most likely etiology. He 
noted having subjective fevers and chills which were concerning 
for pericarditis however EKG did not reveal any changes 
consistent with pericarditis and there was no rub on exam. He 
has no hx of CAD, and his only risk factor is smoking; 
furthermore, EKG and cardiac enzymes were unremarkable despite 
ongoing symptoms for several weeks and  therefore less likely to 
be ACS. As for PE, there was no evidence on EKG to suggest right 
heart strain and the pain has been present for 3 weeks making it 
less likely. He does admit to using cocaine but not thought to 
be consistent with vasospasm.  He denies any immediate use. EKG 
did not reveal any ischemic changes.  The morphine was 
discontinued on the floor in favor of ibuprofen.  

2) Substance abuse: He admitted to using cocaine last 3 weeks 
ago although further review of records from ___ 
within the past week showed a positive urine tox screen for 
cocaine.  As above, his pain was not thought to be consistent 
with cocaine-induced vasospasm, but we discussed how cocaine can 
have serious cardiac effects.  He also has significant alcohol 
use and reports a history of withdrawal, including seizure.  He 
reports trying to cut down.  Pt was not interested in treatment 
programs at this time.  

3) Alcohol Abuse: He was on a CIWA protocol however he did not 
require any valium. He showed no evidence of withdrawal during 
admission.

4) Dispo: Patient discharged and outpatient plan explained, but 
he left before receiving his paperwork.

 
Medications on Admission:
None
 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for pain: Take this medication with food.
Disp:*21 Tablet(s)* Refills:*0*
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day for 7 days: Take 
this while using ibuprofen.
Disp:*7 Capsule, Delayed Release(E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical Chest Pain, likely musculoskeletal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for chest pain which has been present for 
several weeks. The pain does not appear to be coming from your 
heart. Your presentation is consistent with a musculoskeletal 
inflammation. You should benefit from a short course of 
anti-inflammatory pain medication.   

During your admission, you noted that you had recently used 
cocaine. We strongly recommend that you abstain from using 
cocaine in the future. Although the chest pain you experienced 
does not appear to be from your heart, cocaine can cause 
significant damage to your heart, including heart attack. You 
would benefit from consistently meeting with a primary physician 
who can help you find appropriate resources.  We also strongly 
recommend that you abstain from alcohol use.  As sustained 
alcohol use can lead to nutritional deficiencies, we have 
prescibed several vitamin supplements.  Smoking cessation would 
also greatly reduce your risk of multiple health problems, 
including heart attack.  It will be important for you to 
establish care with a primary care provider.

New medications:
Ibuprofen - This may cause gastrointestinal irritation and 
should be taken this with food.  
Omeprazole (Prilosec) - Take this to protect your stomach while 
using ibuprofen.
Folate
Thiamine
Multivitamin
 
Followup Instructions:
___